US07238689B2
A solution of 3.77 g (17.0 mmoles) of (4-ethoxy-6-trifluoromethylpyrimidine-5-yl)-methanol dissolved in 50 ml of diethyl ether was cooled to 0° C. Thereto was added 2.0 g (7.2 mmoles) of phosphorus tribromide. The mixture was stirred at room temperature for 1 hour. The resulting salt was dissolved using methanol. The resulting mixture was stirred for 1 hour to give rise to a reaction. The reaction mixture was poured into water, followed by extraction with diethyl ether. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain crude 5-bromomethyl-4-ethoxy-6-trifluoromethylpyrimidine.

reactant | (4-ethoxy-6-trifluoromethylpyrimidine-5-yl)-methanol | 17.0 mmoles, 3.77 g | C(C)OC1=NC=NC(=C1CO)C(F)(F)F | C8H9F3N2O2
reactant | phosphorus tribromide | 7.2 mmoles, 2.0 g | P(Br)(Br)Br | Br3P
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 5-bromomethyl-4-ethoxy-6-trifluoromethylpyrimidine | BrCC=1C(=NC=NC1C(F)(F)F)OCC | C8H8BrF3N2O
